US07569536B2
Isonicotinoyl chloride hydrochloride (427 mg, 2.39 mmol, commercially available product) and triethylamine (410 μl, 2.94 mmol) were sequentially added at 0° C. to a dichloromethane (5 ml) solution of 2-bromo-5-(trifluoromethyl)aniline (480 mg, 2.00 mmol; commercially available product). The resulting mixture was warmed to room temperature and stirred for 24 hours. Water was added to the mixture, and the resulting mixture was extracted three times with ethyl acetate. The obtained organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by recrystallization (ethyl acetate). Thus, N-[2-bromo-5-(trifluoromethyl)phenyl]isonicotinamide (GIF-0612) (308 mg, 44.8%) was yielded as a colorless solid.

reactant | Isonicotinoyl chloride hydrochloride | Cl.C(C1=CC=NC=C1)(=O)Cl
reactant | triethylamine | 2.94 mmol, 410 μl | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
reactant | 2-bromo-5-(trifluoromethyl)aniline | BrC1=C(N)C=C(C=C1)C(F)(F)F | C7H5BrF3N
solvent | Water | O | H2O
product | N-[2-bromo-5-(trifluoromethyl)phenyl]isonicotinamide | 308 mg, 44.8% | BrC1=C(C=C(C=C1)C(F)(F)F)NC(C1=CC=NC=C1)=O | C13H8BrF3N2O
